US04778869
Preparation of Methyl acrylamidoglycolate (MAG)
Acrylamide (141.7 parts), methylglyoxylate (144 parts), acetone (1200 ml) and henothiazine (0.05 parts) were mixed and heated to reflux for 6 hours. After filtration and crystallization 180 parts MAG were received as confirmed by chemical analysis.

reactant | Acrylamide | C(C=C)(=O)N | C3H5NO
reactant | methylglyoxylate | CC(C(=O)[O-])=O
reactant | acetone | 1200 ml | CC(=O)C | C3H6O
product | Methyl acrylamidoglycolate | C(C=C)(=O)NC(C(=O)OC)O | C6H9NO4
